US08022221B2
A resealable pressure tube, purged with argon, was charged with 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine (150 mg, 0.329 mmol), tetrakis(triphenylphosphine)palladium (38 mg, 0.033 mmol), and 2-(tributylstannyl)thiazole (0.207 mL, 0.658 mmol). This mixture was purged with argon for 10 minutes, followed by addition of toluene (1.6 ml, 0.2 M). Tube was sealed and mixture heated to 110° C. overnight. Next day LC/MS shows completion of reaction. The reaction was stopped, cooled to RT and concentrated under reduced pressure to a brown residue. This residue was purified by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA). The product-containing fractions were combined, basified by addition of aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-(thiazol-2-yl)phthalazin-1-amine as a yellow solid. MS m/z=505 [M+H]+. Calc'd for C27H20N8OS: 504.57.

reactant | 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | 0.329 mmol, 150 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H18ClN7O
reactant | 2-(tributylstannyl)thiazole | 0.658 mmol, 0.207 mL | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.033 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-(thiazol-2-yl)phthalazin-1-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C=1SC=CN1 | C27H20N8OS
